US06469176B1
Preparation of 3-(2-Methyl-6-methylthiophenyl)-4,5-dihydroisoxazole (Process Step d)—Variant C)
25 g (0.14 mol) of 2-(4,5-dihydroisoxazol-3-yl)-3-methylaniline and 0.2 g of copper(II) chloride are initially charged in 200 ml of dimethyl sulfide, and 16.1 g of n-butyl nitrite (0.15 mol) are added dropwise at 55-62° C. The mixture is then stirred at 60° C. for 0.5 hours. For work-up, the mixture is then washed with dilute hydrochloric acid and water and then concentrated under reduced pressure. This gives 26.3 g (91%) of a dark oil which solidifies after a while (content according to HPLC 96%). The product can be purified further by trituration with methyl tert-butyl ether.

reactant | 2-(4,5-dihydroisoxazol-3-yl)-3-methylaniline | 0.14 mol, 25 g | O1N=C(CC1)C1=C(N)C=CC=C1C | C10H12N2O
reactant | n-butyl nitrite | 0.15 mol, 16.1 g | N(=O)OCCCC | C4H9NO2
reactant | dimethyl sulfide | 200 ml | CSC | C2H6S
catalyst | copper(II) chloride | 0.2 g | [Cu](Cl)Cl
product | 3-(2-Methyl-6-methylthiophenyl)-4,5-dihydroisoxazole | CC1=C(C(=CC=C1)SC)C1=NOCC1 | C11H13NOS
